US08536187B2
A mixture of N-tert-butyl-2-fluoro-4-methylbenzenesulfonamide (2 g), NBS (1.16 g) and AIBN (40 mg) in CCl4 (25 ml) was refluxed for 3 hours. The reaction mixture was cooled, filtered and concentrated to give a viscous syrup, which was purified by silica gel column chromatography to give 1.68 g 4-(bromomethyl)-N-tert-butyl-2-fluorobenzenesulfonamide as a colorless crystal solid.

reactant | N-tert-butyl-2-fluoro-4-methylbenzenesulfonamide | 2 g | C(C)(C)(C)NS(=O)(=O)C1=C(C=C(C=C1)C)F | C11H16FNO2S
reactant | NBS | 1.16 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | CCl4 | 25 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | AIBN | 40 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
product | 4-(bromomethyl)-N-tert-butyl-2-fluorobenzenesulfonamide | 1.68 g | BrCC1=CC(=C(C=C1)S(=O)(=O)NC(C)(C)C)F | C11H15BrFNO2S
